US09023847B2
To a solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide (40 mg, 0.12 mmol) and diisopropylethylamine (0.1 mL, 0.59 mmol) in methylene chloride (1.0 mL) was added benzoyl chloride (15 uL, 0.13 mmol) and stirred at room temperature for 30 min. The crude reaction was purified by ISCO Companion (silica, (silica, 0-5% methanol, methylene chloride, 1% ammonium hydroxide) to afford 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzoylamino-ethyl)-amide (48 mg, 48%). LCMS (ESI) 406 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.36 (1H, s) 8.55 (1H, s) 8.24 (1H, br. s.) 8.00 (1H, d, J=5.27 Hz) 7.73-7.85 (3H, m) 7.43-7.52 (2H, m) 7.35-7.42 (2H, m) 7.28 (1H, d, J=3.32 Hz) 6.82 (1H, d, J=5.47 Hz) 6.40 (1H, d, J=3.51 Hz) 3.39-3.45 (4H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | 0.12 mmol, 40 mg | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | diisopropylethylamine | 0.59 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoyl chloride | 0.13 mmol, 15 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzoylamino-ethyl)-amide | 48 mg, 48% | C(C1=CC=CC=C1)(=O)NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H19N5O2S
